US06875765B2
To a solution of (S)-3-(4-amino-2-benzyloxy-benzenesulfonylamino)-succinamic acid tert-butyl ester (1.41 g, 3.10 mmol) in methylene chloride (100 mL) and Et3N (0.44 mL, 3.10 mmol) was added acetyl chloride (0.25 mL, 3.1 mmol). The reaction was stirred for 3 h. The solvent was removed and replaced with EtOAc (150 mL). The organic solution was washed twice with 5% citric acid, saturated NaHCO3, water, and brine. The solution was dried over MgSO4, filtered, and the solvent was removed. The resulting crude product was purified using silica gel flash chromatography (20% hexanes in EtOAc). (S)-3-(4-Acetylamino-2-benzyloxy-benzenesulfonylamino)-succinamic acid tert-butyl ester was obtained in 63% yield (0.96 g) as an off white foam. MS (APCI) m/z 490.2 (M−1).

reactant | (S)-3-(4-amino-2-benzyloxy-benzenesulfonylamino)-succinamic acid tert-butyl ester | 3.10 mmol, 1.41 g | C(C)(C)(C)OC(C[C@@H](C(=O)N)NS(=O)(=O)C1=C(C=C(C=C1)N)OCC1=CC=CC=C1)=O | C21H27N3O6S
reactant | Et3N | 3.10 mmol, 0.44 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 3.1 mmol, 0.25 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(4-Acetylamino-2-benzyloxy-benzenesulfonylamino)-succinamic acid tert-butyl ester | 63% yield | C(C)(C)(C)OC(C[C@@H](C(=O)N)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCC1=CC=CC=C1)=O | C23H29N3O7S
